US04558155
2-(3,5-Dichlorophenoxy)-N-methylethanamine, Hydrochloride
A solution of 31.56 g (0.118 mole) 2-bromoethyl-3,5-dichlorophenyl ether in excess methylamine was agitated overnight in a bomb at room temperature. The methylamine was evaporated under nitrogen and the residue partitioned between water and methylene chloride. The methylene chloride was evaporated to give an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to give the hydrochloride salt which was recrystallized from methanol-diethyl ether to give a white crystalline product in 35.7% overall yield, m.p. 173°-175° C.

reactant | 2-bromoethyl-3,5-dichlorophenyl ether | 0.118 mole, 31.56 g | BrCCC1=C(C=C(C=C1Cl)Cl)OC1=C(C(=CC(=C1)Cl)Cl)CCBr | C16H12Br2Cl4O
reactant | methylamine | CN | CH5N
product | 2-(3,5-Dichlorophenoxy)-N-methylethanamine, Hydrochloride | Cl.ClC=1C=C(OCCNC)C=C(C1)Cl | InChI=1S/C9H11Cl2NO.ClH/c1-12-2-3-13-9-5-7(10)4-8(11)6-9;/h4-6,12H,2-3H2,1H3;1H
